US08049016B2
Synthesis of 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((1-methyl-1H-pyrazol-3-yl)methyl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with (1-methyl-1H-pyrazol-3-yl)methanamine to react with 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 58% yield: mp 158-161° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.43 (s, 1H), 7.37 (s, 1H), 5.80-5.78 (m, 1H), 4.39 (d, J=5.3 Hz, 2H), 4.12-4.07 (m, 2H), 3.86 (s, 3H), 3.60-3.55 (m, 2H), 3.11 (d, J=7.4 Hz, 2H), 2.59 (s, 3H), 1.96-1.87 (m, 1H), 0.93 (d, J=7.4 Hz, 6H); 13C NMR (75 MHz, CDCl3) δ 162.4, 157.4, 155.6, 152.9 152.6, 138.6, 129.5, 118.3, 117.0, 51.5, 42.8, 41.9, 38.8, 34.3, 26.7, 19.9, 17.1; MS (ES+) m/z 376.8 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | (1-methyl-1H-pyrazol-3-yl)methanamine | CN1N=C(C=C1)CN | C5H9N3
reactant | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H17N3O3S
product | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((1-methyl-1H-pyrazol-3-yl)methyl)thiazole-5-carboxamide | 58% yield | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=NN(C=C1)C)=O | C17H24N6O2S
